US07727988B2
1-(3,3-Dimethoxy-propyl)-5-(3-fluoro-pyridin-4-yl)-1H-pyrimidine-2,4-dione (Prep68)
5-(3-Fluoro-pyridin-4-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep 67, 243 mg, 1.1 mmol) was dissolved in DMF (2 ml). K2CO3 (153 mg, 1.1 mmol) was added and the mixture was stirred at room temperature for 1 hour. 3-Bromo-1,1dimethoxy-propane (225 mg, 1.11 mmol) was then added and after stirring the reaction at room temperature for 48 hours, the reaction was left at 4° C. for 17 days. Ethyl acetate was then added and the mixture washed with water and brine. The organic phase was dried (Na2SO4) and evaporated. The residue was purified by flash chromatography with DCM-MeOH—NH4OH 98-2-0.2 to afford 75 mg of the title compound (22% yield).

reactant | 5-(3-Fluoro-pyridin-4-yl)-1H-pyrimidine-2,4-dione hydrochloride | 1.1 mmol, 243 mg | Cl.FC=1C=NC=CC1C=1C(NC(NC1)=O)=O
reactant | K2CO3 | 1.1 mmol, 153 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Bromo-1,1dimethoxy-propane | 1.11 mmol, 225 mg | BrCCC(OC)OC | C5H11BrO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-(3,3-Dimethoxy-propyl)-5-(3-fluoro-pyridin-4-yl)-1H-pyrimidine-2,4-dione | 75 mg, 22% yield | COC(CCN1C(NC(C(=C1)C1=C(C=NC=C1)F)=O)=O)OC | C14H16FN3O4
